US06723744B2
Step E: Preparation of N-Cyclobutyl-5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-N-methyl-benzamide
To a solution of N-Cyclobutyl-5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-benzamide (1.67 grams, 4.51 mmol) in N,N-dimethylformamide (50 mL) at 0° C. under nitrogen was added NaH (60% dispersion in mineral oil, 0.27 grams, 11 mmol). After stirring 30 minutes at 0° C., iodomethane (3.2 g, 23 mmol) was added at 0° C. The reaction mixture was allowed to warm to room temperature and stirred at room temperature for 16 hours, poured into water (450 mL), and extracted with ethyl acetate (3 times 75 mL). The combined organic extracts were washed with water (5 times 200 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by column chromatography (20% ethyl acetate in hexane to 40% ethyl acetate in hexane) to afford the title compound (1.65 grams) as an off white foam. 1H NMR (400 MHz, CDCl3) δ7.96 (s, 2H), 6.80-6.52 (m, 3H, 2 rotomers observed), 5.04, 4.02-3.98 (m, m, 1H, 2 rotomers observed), 3.74, 3.67 (s,s, 3H, 2 rotomers observed), 3.02, 2.75 (s,s, 3H, 2 rotomers observed), 2.25-1.94 (m, 9H, 2 rotomers observed), 1.75-1.41 (m, 3H, 2 rotomers observed). MS (APCI+) Calc: 384.0, Found: 385.2 (M+1).

reactant | N-Cyclobutyl-5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-benzamide | 4.51 mmol, 1.67 grams | C1(CCC1)NC(C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)OC)=O | C20H22N2O5
reactant | NaH | 11 mmol, 0.27 grams | [H-].[Na+]
reactant | iodomethane | 23 mmol, 3.2 g | IC | CH3I
reactant | water | 450 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | N-Cyclobutyl-5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-N-methyl-benzamide | 1.65 grams | C1(CCC1)N(C(C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)OC)=O)C | C21H24N2O5
